Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
CC: less interactive, fall, neck pain

HPI(4): Mr. ___ is a ___ male with history of
Alzheimer's Dementia, Cerebral Amyloid Angiopathy, ARMD and
recent progressive functional decline and weight loss who
presents from memory care unit with 2 days of AMS, and today had
a witnessed fall with head strike. 

EMS report: "Pt found alert and acting his baseline seated on 
the
floor of above complaining of a fall. Pt has history of dementia
but was able to answer simple questions. Pt stated that he was
attemptimg to stand from bed when his feet slipped, causing him
to slide to the ground. Pt denied any injury but was noted to
have abrasions and redness to the forehead and left cheek 
areas."

In the ED: AFVSS, unable to give history but per family and EMS
report history gathered as above with negative trauma workup
including CT head, C spine and A/P but noted to have evidence of
pneumonia on chest imaging so started on Vanc/Zosyn, given 500cc
of LR and admitted to medicine. 

I spoke with ___ his son and primary HCP by phone. No recent
hospital admissions, this is his first admission/acute care 
visit
in a very long time. He was moved to ___ in ___
and to the memory unit there in ___. Patient has been 
taking
prn zantac recently for heartburn / reflux. He has never had a
formal swallow eval. Son says ___ been taking good care of
him and so if he was actively aspirating or having trouble with
swallowing they would've mentioned it. Patient had been fairly
healthy up until recently, he is now in the early stages of
advanced Alzheimer's dementia. His neurologist Dr. ___ is at ___ and recently diagnosed him with Cerebral Amyloid
Angiopathy. He has lost a lot of weight over the past year and
has been eating less and less. Has good days and bad days but
more recently has lost the ability to call for help or activate
his alert button, son isn't sure if this is because of physical
weakness or cognitive deficits. 

Son is home with acute back strain but wants to be kept updated
(and called once patient has arrived to inpatient unit). He 
would
like for his dad to be DNR/DNI, will work on MOLST prior to
discharge. Daughter is alternate and came in with him to ED. 

___ NP there who knows him well is ___ ___ but
she's currently away and being covered by ___.
Patient's care is based at ___, previously followed by a
physician affiliated with ___. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative.
 
Past Medical History:
PAST MEDICAL / SURGICAL HISTORY:
-Alzheimer's Dementia
-Cerebral Amyloid Angiopathy
-Depression
-Reflux / Dyspepsia
-Age related Macular Degeneration

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VITALS: 97.6  120 / 60 64 20 97 Ra  
GENERAL: Alert and oriented to self only and in no apparent
distress, he is cachectic
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented to person, face symmetric, gaze 
conjugate.
Oriented to season, President, "___", ___.  Unable to
provide many details of medical care and very rambling and
tangential in many answers.  Pleasant
 with EOMI, speech fluent, moves all limbs, sensation to light
touch grossly intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission labs

___ 09:14PM BLOOD WBC-14.6* RBC-4.41* Hgb-14.2 Hct-41.6 
MCV-94 MCH-32.2* MCHC-34.1 RDW-12.7 RDWSD-43.8 Plt ___
___ 09:14PM BLOOD Neuts-82.7* Lymphs-10.3* Monos-5.8 
Eos-0.5* Baso-0.3 Im ___ AbsNeut-12.05* AbsLymp-1.50 
AbsMono-0.84* AbsEos-0.07 AbsBaso-0.04
___ 07:15AM BLOOD ___ PTT-27.8 ___
___ 09:14PM BLOOD Glucose-109* UreaN-30* Creat-0.8 Na-142 
K-3.6 Cl-104 HCO3-27 AnGap-11
___ 07:15AM BLOOD ALT-26 AST-25 LD(LDH)-182 AlkPhos-87 
TotBili-1.1
___ 09:14PM BLOOD cTropnT-<0.01
___ 07:15AM BLOOD Albumin-3.7 Calcium-9.1 Phos-3.2 Mg-1.9
___ 09:14PM BLOOD ASA-NEG Acetmnp-NEG Tricycl-NEG

Head Ct 
 
1. There is no evidence of acute intracranial process or 
hemorrhage.
2. Confluent areas of low attenuation in the subcortical and 
periventricular
white matter are nonspecific and may reflect changes due to 
small vessel
disease.
3. Please note that the tip of the basilar artery appears 
slightly patulous,
correlation with CT of the head is recommended if clinically 
warranted.
 
RECOMMENDATION(S):  Please note that the basilar artery appears 
slightly
ectatic and the tip of the basilar artery appears slightly 
patulous, if
clinically warranted, correlation with CTA or MRA of the head is 
advised.

CT C spine 
 
IMPRESSION:
 
 
1. No evidence of acute cervical spine fracture or traumatic 
subluxation.
2. Multilevel degenerative changes of the cervical spine most 
extensive at
C4-5.
 

Ct Torso 
MPRESSION:
 
 
1. Patchy ground-glass and ___ opacification in the 
right lower lobe,
concerning for aspiration/infection.
2. No acute findings in the abdomen or pelvis, within 
limitations of a
noncontrast study.
3. Prostatomegaly.
 
Brief Hospital Course:
Mr. ___ is a ___ male with history
of Alzheimer's Dementia, Cerebral Amyloid Angiopathy, ARMD and
recent progressive functional decline and weight loss who
presents from memory care unit with 2 days of AMS, a witnessed
fall with head strike found to have possible
pneumonia in RLL with concern for aspiration.  

#Altered Mental Status 
#Leukocytosis 
#Fall
#Aspiration Pneumonia 
Presented with fall from his memory care unit had a full trauma 
survey in the emergency room which included a CT torso.  CT head 
and CT C-spine were negative for any trauma.  CT torso showed 
right lower lobe pneumonia and he was started on Unasyn and 
azithromycin.  He was transitioned to Augmentin and completed a 
7-day course.

#Aspiration
Seen by speech and swallow  who recommended nothing by mouth as
he is aspirating all oral intake.  This is likely from
progressive dementia could be slightly worse in the setting of
above pneumonia. Discussed this with his son and the fact that 
he
has been losing weight for last two months supporting he has
reached the end staged of dementia. He states that his
neurologist has recently said the same thing. His HCP/Son would
like to allow him to eat for comfort he understands the risks.   
He is tolerating a pureed solids and thin liquids.  He is 
coughing occasionally after thin liquids.

#Constipation:  No bm for last ___ days; given bisacodyl on the 
morning of ___.  Please continue bowel regimen as 
appropriate.

#Goals Of Care 
His family knows he is nearing the end of his life as supported
by his weight loss, increasing dementia, and now aspirations. 
His
father was a brilliant man prior to the dementia diagnosis and
his son is unsure he would want to live like this. We talked
about that he will continue to aspirate and one of these
aspiration events might end his life. At this time he wants to
help set up his father with hospice care. After searching for an 
appropriate care facility able to accommodate dementia needs and 
hospice, he was discharged to ___ where he will be 
transitioned to  hospice care.

#Alzheimer's dementia #Cerebral Amyloid Angiopathy - continue
home memantine and donepezil

Greater than ___ hour spent on care.  
Patient is DNR/DNI, son will fill out MOLST form at ___

Greater than 30 minutes spent on complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Memantine 10 mg PO BID 
2. Sertraline 25 mg PO DAILY 
3. Donepezil 10 mg PO QHS 
4. Lumigan (bimatoprost) 0.01 % ophthalmic (eye) QHS 
5. Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Ranitidine 150 mg PO BID:PRN dyspepsia 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO DAILY:PRN Constipation  
2.  Donepezil 10 mg PO QHS  
3.  Lumigan (bimatoprost) 0.01 % ophthalmic (eye) QHS  
4.  Memantine 10 mg PO BID  
5.  Multivitamins 1 TAB PO DAILY  
6.  Ranitidine 150 mg PO BID:PRN dyspepsia  
7.  Sertraline 25 mg PO DAILY  
8.  Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Fall
Amyloid angiopathy
Dementia
Aspiration pneumonia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
You were admitted to the hospital after you fell at your memory 
care unit.  You were found to have a right lower lobe pneumonia 
and you were started on antibiotics.  You were seen by our 
speech and language pathologist who found that you were 
aspirating many of the things you eat.  This is likely from 
progressive dementia.  We had long discussions with your family 
that you are nearing the end of your life and they decided that 
they would allow you to eat for comfort.  You completed a course 
of antibiotics. 

Was a pleasure caring for you,
Your medical team
 
Followup Instructions:
___